US04923881
To a solution of (+)-2,2-dibutyl-5-(2-quinolylmethoxy)-1,2,3,4-tetrahydro-1-naphthol (14.5 g) in ethyl acetate (145 ml) was added 3N-hydrogen chloride solution in ethyl acetate (20 ml) in one portion with vigorous stirring at ambient temperature. After stirring for 20 minutes, the precipitates were collected by filtration and washed with ethyl acetate. The pale yellow solid was recrystallized from acetonitrile to yield (+)-2,2-dibutyl-5-(2-quinolyl- methoxy)-1,2,3,4-tetrahydro-1-naphthol hydrochloride (11.605 g) as white solid. mp: 138°-140° C. [α]D25 +6 9° (c=0.62, MeOH). NMR (CD3OD, δ): 0.88 (3H, t, J=6 Hz), 0.96 (3H, t, J=6 Hz), 1.10-1.90 (14H, m), 2.63 (1H, m), 2.91 (1H, m), 4.30 (1H, s), 5.71 (2H, s), 6.98.(1H, d, J=8 Hz), 7.08 (1H, d, J=8 Hz), 7.22 (1H, t, J=8 Hz), 8.00 (1H, t, J=8 Hz), 8.16-8.43 (4H, m), 9.22 (1H, d, J=8 Hz).

reactant | (+)-2,2-dibutyl-5-(2-quinolylmethoxy)-1,2,3,4-tetrahydro-1-naphthol | 14.5 g | C(CCC)C1(C(C2=CC=CC(=C2CC1)OCC1=NC2=CC=CC=C2C=C1)O)CCCC | C28H35NO2
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 145 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (+)-2,2-dibutyl-5-(2-quinolyl- methoxy)-1,2,3,4-tetrahydro-1-naphthol hydrochloride | 11.605 g | Cl.C(CCC)C1(C(C2=CC=CC(=C2CC1)OCC1=NC2=CC=CC=C2C=C1)O)CCCC | InChI=1S/C28H35NO2.ClH/c1-3-5-17-28(18-6-4-2)19-16-23-24(27(28)30)11-9-13-26(23)31-20-22-15-14-21-10-7-8-12-25(21)29-22;/h7-15,27,30H,3-6,16-20H2,1-2H3;1H
